US07893058B2
The 5-amino-pyridine-2-carboxylic acid is coupled to N,N-diethyl-ethane-1,2-diamine (0.47 mL, 3.32 mmol), in the presence of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.26 g, 3.33 mmol), and DIPEA (0.59 mL, 3.33 mmol) in THF (10 mL). The mixture is stirred at room temperature for 48 hours. The solvent is removed in vacuo and the residue partitioned between water-EtOAc. The organic layer is dried over MgSO4, filtered and concentrated to give a residue purified by silica gel column chromatography. 5-Amino-pyridine-2-carboxylic acid (2-diethylamino-ethyl)-amide is isolated (394 mg, 100%) eluting with 96:4 DCM:NH3 (7M in MeOH).

reactant | 5-amino-pyridine-2-carboxylic acid | NC=1C=CC(=NC1)C(=O)O | C6H6N2O2
reactant | N,N-diethyl-ethane-1,2-diamine | 3.32 mmol, 0.47 mL | C(C)N(CCN)CC | C6H16N2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.33 mmol, 1.26 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | DIPEA | 3.33 mmol, 0.59 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-Amino-pyridine-2-carboxylic acid (2-diethylamino-ethyl)-amide | C(C)N(CCNC(=O)C1=NC=C(C=C1)N)CC | C12H20N4O
